US07511167B2
1-(1): Preparation of 2-methoxy-6-dodecanoylnaphthalene
2-Methoxynaphthalene (30.1 g, 0.19 mol) was added to a solution of aluminum chloride (32.9 g, 0.25 mol) in anhydrous nitrobenzene under a nitrogen atmosphere. To the mixture was slowly added dropwise lauryl chloride (41.6 g, 0.19 mol) at 10-13° C. over 15 minutes. The resulting mixture was stirred at 5° C. for 2 hours and at room temperature for 12 hours. The reaction mixture was poured into 300 ml of 3M HCl at 0° C., extracted with chloroform, and sufficiently washed with brine. The solvents were removed by evaporation under reduced pressure. The residue was dissolved in chloroform and washed with 0.1M NaOH. The mixture was evaporated to remove the chloroform, followed by recrystallization from ethanol to give the title compound (41.5 g, yield: 64.2%).

reactant | 2-Methoxynaphthalene | 0.19 mol, 30.1 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | aluminum chloride | 0.25 mol, 32.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lauryl chloride | 0.19 mol, 41.6 g | C(CCCCCCCCCCC)Cl | C12H25Cl
reactant | HCl | 3M, 300 ml | Cl | ClH
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-methoxy-6-dodecanoylnaphthalene | 41.5 g, yield: 64.2% | COC1=CC2=CC=C(C=C2C=C1)C(CCCCCCCCCCC)=O | C23H32O2
